US05380721
The product was prepared by the alkylation of 4-nitro-3-methylphenol (15.3 g) with ethyl bromoacetate (16.7 g) in DMF (150 mL) in the presence of potassium carbonate (13.8 g) to afford ethyl 4-nitro-3-methylphenoxyacetate; hydrogenation of the latter (7.18 g, 0.03 mol) in ethanol (250 mL) in the presence of 5% palladium on carbon (2.1 g) to afford 6.20 g (99%) of ethyl 4-amino-3-methylphenoxyacetate as a brown oil; and treatment of the latter (6.2 g, 0.0296 mol) in CH2Cl2 (100 mL) with pyridine (10 mL), followed by methanesulfonylchloride (3.73 g, 0.033 mol) to afford 6.54 g (76.9%) of N-[4-(ethoxycarbonylmethoxy)-2-(methyl)phenyl]methanesulfonamide, m.p. 93°-94 ° C., after recrystallization from ethanol.

reactant | 4-nitro-3-methylphenol | 15.3 g | [N+](=O)([O-])C1=C(C=C(C=C1)O)C | C7H7NO3
reactant | ethyl bromoacetate | 16.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | ethyl 4-nitro-3-methylphenoxyacetate | [N+](=O)([O-])C1=C(C=C(OCC(=O)OCC)C=C1)C | C11H13NO5
